US04415621
Preparation of 2,5-bis(4-diethylaminobenzylidene)cyclopentanone
About 110 g of p-diethylaminobenzaldehyde were dissolved in a solution of 80 g of potassium hydroxide in 1000 mL of methanol. About 26 g of cyclopentanone were added with stirring and the reaction mixture was heated under reflux on a steam bath for 3 hr. After chilling in the freezer, a solid precipitate was collected, washed with alcohol and recrystallized from a mixture of alcohol and acetonitrile. The title compound was confirmed by its NMR spectrum. This dye has an ε488 /MW of 188.

reactant | p-diethylaminobenzaldehyde | 110 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | cyclopentanone | 26 g | C1(CCCC1)=O | C5H8O
solvent | potassium hydroxide | 80 g | [OH-].[K+]
solvent | methanol | 1000 mL | CO | CH4O
product | 2,5-bis(4-diethylaminobenzylidene)cyclopentanone | C(C)N(C1=CC=C(C=C2C(C(CC2)=CC2=CC=C(C=C2)N(CC)CC)=O)C=C1)CC | C27H34N2O
